US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-carboxypropanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To a solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aminomethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (20 mg, 0.037 mmol) in DCM (2 ml) was added dihydrofuran-2,5-dione (11.04 mg, 0.110 mmol) followed by DMAP (4.49 mg, 0.037 mmol) and DIPEA (6.42 μl, 0.037 mmol). The mixture was stirred at rt for 18 h. The solvent was removed in vacuo and the resulting residue was purified by prep. HPLC. The product was isolated as a white solid (5 mg, 21.1%). LCMS: m/e 644.5 (MH+), 2.80 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 7.94 (d, J=8.5 Hz, 2H), 7.16-7.34 (m, 2H), 5.32 (dd, J=6.4, 1.6 Hz, 1H), 4.74 (d, J=2.0 Hz, 1H), 4.62 (s, 1H), 3.54 (d, J=13.6 Hz, 1H), 3.04 (d, J=13.8 Hz, 1H), 2.57-2.71 (m, 2H), 2.44-2.57 (m, 2H), 2.17 (dd, J=17.2, 6.4 Hz, 1H), 2.09 (dd, J=13.1, 1.8 Hz, 1H), 1.85 (dd, J=12.2, 3.4 Hz, 2H), 1.65-1.82 (m, 8H), 1.61 (br. s., 2H), 1.53 (d, J=10.5 Hz, 3H), 1.48 (d, J=2.0 Hz, 1H), 1.35-1.45 (m, 3H), 1.24-1.35 (m, 3H), 1.16-1.24 (m, 4H), 1.02-1.16 (m, 8H), 0.99 (s, 3H), 0.95 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aminomethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.037 mmol, 20 mg | NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C37H53NO2
reactant | dihydrofuran-2,5-dione | 0.110 mmol, 11.04 mg | O1C(CCC1=O)=O | C4H4O3
reactant | DIPEA | 0.037 mmol, 6.42 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.037 mmol, 4.49 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-carboxypropanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 5 mg, 21.1% | C(=O)(O)CCC(=O)NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C41H57NO5
